US06387942B2
To a solution of 1-benzyl-3-(4′-ethoxycarbonylphenyl)indazole (1 g, 2.8 mmole) dissolved in 10 mL methanol was added a sodium hydroxide solution (0.56 g in 20 mL water). After the mixture was heated under reflux for 6 hours, the methanol was removed by evaporation. The residue thus obtained was acidified with diluted HCl. After cooling in an ice bath, a solid precipitated and was collected to obtain 0.87 g 1-benzyl-3-(4′-hydroxycarbonyl-phenyl)-indazole in a yield of 94.5%.

reactant | 1-benzyl-3-(4′-ethoxycarbonylphenyl)indazole | 2.8 mmole, 1 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=CC=C(C=C1)C(=O)OCC | C23H20N2O2
reactant | sodium hydroxide | 20 mL, 0.56 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 1-benzyl-3-(4′-hydroxycarbonyl-phenyl)-indazole | 0.87 g, yield of 94.5% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)C1=CC=C(C=C1)C(=O)O | C21H16N2O2
